US08912188B2
To a solution of methyl 2-(4-fluorophenyl)-7-methoxy-3-[methyl(propan-2-yl)amino]quinoxaline-6-carboxylate (120 mg, 0.31 mmol) in methanol (30 mL) and water (1.0 mL) was added sodium hydroxide (50 mg, 1.25 mmol) with stirring overnight at room temperature. The reaction mixture was concentrated in vacuo, dissolved in water (30 mL), and adjusted to pH 5 with hydrochloric acid (3N) to give the precipitate, which was collected by filtration to afford 2-(4-fluorophenyl)-7-methoxy-3-[methyl(propan-2-yl)amino]quinoxaline-6-carboxylic acid as a light yellow solid (38.2 mg, 88%).

reactant | methyl 2-(4-fluorophenyl)-7-methoxy-3-[methyl(propan-2-yl)amino]quinoxaline-6-carboxylate | 0.31 mmol, 120 mg | FC1=CC=C(C=C1)C1=NC2=CC(=C(C=C2N=C1N(C(C)C)C)C(=O)OC)OC | C21H22FN3O3
reactant | sodium hydroxide | 1.25 mmol, 50 mg | [OH-].[Na+]
solvent | methanol | 30 mL | CO | CH4O
solvent | water | 1.0 mL | O | H2O
product | 2-(4-fluorophenyl)-7-methoxy-3-[methyl(propan-2-yl)amino]quinoxaline-6-carboxylic acid | 38.2 mg, 88% | FC1=CC=C(C=C1)C1=NC2=CC(=C(C=C2N=C1N(C(C)C)C)C(=O)O)OC | C20H20FN3O3
